US06184376B2
a) N-Carbobenzyloxy-L-valine Anhydride
A solution of dicyclohexylcarbodiimide (5 kg, 24 moles) in acetonitrile (17.5 kg) was added to a reactor containing a solution of N-carbobenzyloxy-L-valine (12.5 kg, 50 moles) in acetonitrile (200 kg). The mixture was stirred at 5+/−5° C. for 6 hours and the resulting solid was filtered off. The filtrate was concentrated under vacuum at not more then 45° C. and the residue was dissolved in toluene (50 kg) at 40° C. Heptane (50 kg) was added and the mixture was cooled to 15+/−5° C. The precipitate was filtered off and dried to give 10.2 kg of the desired product.

reactant | dicyclohexylcarbodiimide | 24 moles, 5 kg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-carbobenzyloxy-L-valine | 50 moles, 12.5 kg | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)O | C13H17NO4
solvent | acetonitrile | 17.5 kg | C(C)#N | C2H3N
solvent | acetonitrile | 200 kg | C(C)#N | C2H3N
product | N-Carbobenzyloxy-L-valine Anhydride | 10.2 kg | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)OC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O | C26H32N2O7
